US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4′-fluoro-4-isopropenyl-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (38 mg, 0.059 mmol) in 1,4-dioxane (0.5 mL) was added (2-chloro-5-isopropylphenyl)boronic acid (10 mg, 0.12 mmol), [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium (II) (2.4 mg, 5 mol %) and aqueous potassium hydroxide (40 μL, 3M, 2 eq.). The reaction mixture was purged with nitrogen and then sealed in a microwave vessel. The reaction vessel was subject to microwave irradiation at 140° C. for 20 min. Crude mixture was worked up with water and EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo to give the crude product. This was purified by preparative TLC plate eluted by 20% EtOAc in hexanes to give the titled compound. LC-MS: 610.04 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 7.84 (s, 1H), 7.64-7.70 (m, 2H), 7.56 (s, 0.5), 7.45-7.50 (m, 1.5H), 7.18-7.23 (m, 1H), 7.02 (d, J=9.0 Hz, 0.5H), 6.99 (d, J=8.5 Hz, 0.5H), 6.67 (d, J=7.0 Hz, 0.5H), 6.64 (d, J=5.5 Hz, 0.5H), 5.52 (d, J=8.0 Hz, 0.5H), 5.43 (d, J=8.5 Hz, 1H), 5.26 (d, J=8.0 Hz, 0.5H), 5.13-5.17 (m, 1H), 4.91 (d, J=15.0 Hz, 0.5H), 4.86 (d, J=15.5 Hz, 0.5H), 4.04 (d, J=15.5 Hz, 0.5H), 3.83 (d, J=15.5, 0.5H), 3.70-3.78 (m, 3H), 3.14-3.25 (m, 1H), 2.18-2.22 (m, 3H), 1.14-1.29 (m, 6H), 0.50 (d, J=6.5 Hz, 1.5H), 0.31 (d, J=6.5 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 0.059 mmol, 38 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)Br)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C29H25BrF7NO3
reactant | (2-chloro-5-isopropylphenyl)boronic acid | 0.12 mmol, 10 mg | ClC1=C(C=C(C=C1)C(C)C)B(O)O | C9H12BClO2
reactant | potassium hydroxide | 3M, 40 μL, 2 eq. | [OH-].[K+]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium (II) | 2.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4′-fluoro-4-isopropenyl-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(=C)C)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C32H30F7NO3
